2170-02-18 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2170-2-17**] 10:21 AM
 SHEATH - STOP [**2170-2-17**] 10:29 AM
   removed venous sheath
   -d/c'ed arterial line
   -advanced diet
   -started lisinopril
   -uptitrated metoprolol
   -no ortho recs in chart
   -INR currently therapeutic, but will need to discuss anticoagulation
   (for s/p total hip replacement) on morning rounds
   -called [**Location (un) 3**] for micro data: blood cx [**2-14**] x 2 and bloox cx [**2-15**] x 1
   all no growth to date (prelim)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2170-2-15**] 04:03 PM
   Piperacillin - [**2170-2-16**] 04:00 AM
   Vancomycin - [**2170-2-16**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-2-17**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-2-18**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 80 (69 - 91) bpm
   BP: 117/55(70) {90/41(57) - 130/68(73)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.1 kg (admission): 58.6 kg
   Height: 64 Inch
                  Total In:
                                                                    730 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    190 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    320 mL
   Urine:
                                                                  1,670 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -940 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   292 K/uL
   10.3 g/dL
   108 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   17 mg/dL
   108 mEq/L
   139 mEq/L
   29.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2170-2-15**]  11:00 PM
                             [**2170-2-15**]  11:15 PM
                             [**2170-2-16**]  05:11 AM
                             [**2170-2-16**]  05:23 AM
                             [**2170-2-16**]  05:36 PM
                             [**2170-2-16**]  05:39 PM
                             [**2170-2-16**]  05:51 PM
                             [**2170-2-17**]  04:10 AM
                             [**2170-2-17**]  03:36 PM
                             [**2170-2-18**]  04:47 AM
   WBC
   10.1
   9.9
   8.7
   Hct
   31.0
   29.7
   27.8
   27.9
   33.0
   29.2
   Plt
   173
   226
   292
   Cr
   0.9
   0.7
   0.7
   0.8
   TropT
   4.84
   6.41
   TCO2
   23
   24
   26
   Glucose
   116
   98
   101
   91
   108
   Other labs: PT / PTT / INR:17.9/35.2/1.6, CK / CKMB /
   Troponin-T:321/14/6.41, ALT / AST:35/100, Alk Phos / T Bili:49/0.5,
   Differential-Neuts:79.7 %, Lymph:15.0 %, Mono:4.5 %, Eos:0.6 %, Lactic
   Acid:1.4 mmol/L, Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   82 y/o woman s/p hip replacement, transferred to [**Hospital1 5**] for NSTEMI,
   intubated [**1-9**] respiratory distress related to heart failure vs. PNA.
   Now, s/p cath with placement BMS to LCx and extubation.
   .
   # Coronary Artery Disease: Pt is s/p cath during which she had BMS
   placed to the LAD.
   - continue asa, plavix, metoprolol, statin- HR in 60-70s
   - protonix to prevent ASA related GI upset.
   -venous sheath pulled.
   repeat echo to look for any LV thrombus in the setting of a recent
   anterior infarct and ? warfarin for LV thrombuys prophylaxis
   .
   # Respiratory distress: Likely related to HF in the setting of NSTEMI.
   PNA seems unlikely, and abx were d/c
ed. Pt is s/p extubation and is
   breathing comfortably.
   - Cx data from [**Location (un) 3**] negative
   - continue to monitor respiratory status
   - Lasix 20 mg IV x1 this morning, recheck lytes in PM
   .
   # S/p Hip Sx: Hip site looks good per ortho with no concern for infx.
   -          d/w ortho at [**Location (un) 3**] why pt is not on post-op
   anticoagulation
   -          appreciate ortho recs.
   .
   #  Newly worsened MR on recent echo: possibly ischemic in nature.
   - repeat echo  as above
   .
   # Hypotension: resolved, off pressors.
   .
   # HCT drop: HCT 32.2 on admission following 2U PRBC at [**Location (un) 3**]. Concern
   at OSH was for RP bleed however no evidence of this clinically and HCT
   trended down slowly from 32 on admit to 27 yesterday. Hct 29 from 33
   y/d pm. No evidence of bleeding.
   - [**Hospital1 **] crit check
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-2-15**] 04:00 PM
   Arterial Line - [**2170-2-15**] 08:46 PM
   Sheath - [**2170-2-16**] 01:33 PM
   20 Gauge - [**2170-2-16**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-2-15**] 04:00 PM
   20 Gauge - [**2170-2-16**] 06:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: